US07582629B2
2-Butyl-4-chloro-5-(3-chlorophenyl)isothiazol-3(2H)-one 1,1-dioxide
Dry DMF (0.17 mL, 2.21 mmol) was added to a solution of 2-butyl-5-(3-chlorophenyl)-4-hydroxyisothiazol-3(2H)-one 1,1-dioxide (697 mg, 2.21 mmol) in dry DCM (15 mL) at rt and under an atmosphere of nitrogen. Oxalyl chloride (0.37 mL, 4.41 mmol) was added dropwise and the mixture was heated to reflux for 2.5 h. The reaction mixture was evaporated to dryness. The residue was dissolved in EtOAc and it was washed with several portions of water, dried with MgSO4, and evaporated to give the title compound (685 mg, 84%) as a brown oil which was used without further purification; 1H NMR (500 MHz, CDCl3): δ 7.96 (t, 1H), 7.84-7.88 (m, 1H), 7.57-7.61 (m, 1H), 7.50-7.55 (t, 1H), 3.79 (t, 2H), 1.80-1.87 (m, 2H), 1.39-1.51 (m, 2H), 1.00 (t, 3H); 13C NMR (125 MHz, CDCl3): δ 161.5, 155.9, 142.4, 135.8, 132.8, 131.0, 129.0, 127.3, 125.1, 41.0, 30.4, 20.1, 13.7.

reactant | DMF | 2.21 mmol, 0.17 mL | CN(C)C=O | C3H7NO
reactant | 2-butyl-5-(3-chlorophenyl)-4-hydroxyisothiazol-3(2H)-one 1,1-dioxide | 2.21 mmol, 697 mg | C(CCC)N1S(C(=C(C1=O)O)C1=CC(=CC=C1)Cl)(=O)=O | C13H14ClNO4S
reactant | Oxalyl chloride | 4.41 mmol, 0.37 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-Butyl-4-chloro-5-(3-chlorophenyl)isothiazol-3(2H)-one 1,1-dioxide | 685 mg, 84% | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC(=CC=C1)Cl)(=O)=O | C13H13Cl2NO3S
